US08372823B2
4-Hydroxycinnamic acid (700 mg, 4.26 mmol) was dissolved in EtOAc (15 mL) and 10% Pd/C (51 mg, 0.479 mmol) was added. The reaction mixture was stirred under an atmosphere of H2 overnight at room temperature before it was filtered through diatomaceous earth and concentrated in vacuo. No further purification was needed to yield 3-(4-hydroxyphenyl)propanoic acid (700 mg, 99%). A solution of 3-(4-hydroxyphenyl)propanoic acid (700 mg, 4.21 mmol) in anhydrous DMF (16 mL) at 0° C. was treated with a solution of 60% NaH (450 mg, 18.75 mmol) in DMF dropwise. The reaction mixture was stirred for 10 min before benzyl bromide (0.675 mL, 5.68 mmol) was added. The reaction mixture was stirred overnight at room temperature, quenched with aqueous 1 N HCl and extracted with EtOAc. The combined organic layers were washed with saturated aqueous NH4Cl, saturated aqueous NaCl and dried over Na2SO4. Column chromatography (SiO2, 4×9 cm, 20-40% EtOAc-hexanes gradient) afforded 3-(4-(benzyloxy)phenyl)propanoic acid (780 mg, 72%) as a white solid: 1H NMR (CDCl3, 500 MHz) 7.44 (d, 2H, J=7.4 Hz), 7.40 (t, 2H, J=7.4 Hz), 7.35-7.32 (m, 1H), 7.14 (d, 2H, J=8.8 Hz), 6.92 (d, 2H, J=8.4 Hz), 5.06 (s, 2H), 2.92 (t, 2H, J=7.7 Hz), 2.66 (t, 2H, J=7.7 Hz); 13C NMR (CDCl3, 125 MHz) 179.0, 157.3, 137.0, 132.5, 129.2, 128.5, 127.9, 127.4, 114.9, 70.0, 35.8, 29.7. (See: Xue, C.-B.; He, X.; et al. J. Med. Chem. 2001, 44, 3351-3354)

reactant | 4-Hydroxycinnamic acid | 4.26 mmol, 700 mg | OC1=CC=C(C=CC(=O)O)C=C1 | C9H8O3
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.479 mmol, 51 mg | [Pd] | Pd
product | 3-(4-hydroxyphenyl)propanoic acid | 700 mg, 99% | OC1=CC=C(C=C1)CCC(=O)O | C9H10O3
